US08471005B2
4-Fluoro-3-morpholin-4-yl-phenylamine (50.0 mg, 0.255 mmol), N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (46.4 mg, 0.127 mmol) and N,N-Diisopropylethylamine (0.0666 mL, 0.382 mmol) were dissolved in 1-Methoxy-2-propanol (0.50 mL, 5.1 mmol). The reaction was irradiated at 300 watts, 200° C. for 20 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced and the crude residue was isolated and purified by Gilson prep HPLC to afford 23.77 mg of N-{2-[2-(4-Fluoro-3-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide as a lyophilized powder. (M+H)=497.1. 1H NMR (400 MHz, DMSO, d6) δ 9.36 (s, 1H), 8.97 (s, 1H), 7.72 (m, 1H), 7.67 (m, 1H), 7.54 (m, 3H), 6.96 (m, 3H), 6.87 (m, 1H), 3.59 (m, 4H), 3.07 (s, 3H), 2.79 (s, 3H), 2.55 (m, 4H).

reactant | 4-Fluoro-3-morpholin-4-yl-phenylamine | 0.255 mmol, 50.0 mg | FC1=C(C=C(C=C1)N)N1CCOCC1 | C10H13FN2O
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.127 mmol, 46.4 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
reactant | N,N-Diisopropylethylamine | 0.382 mmol, 0.0666 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 5.1 mmol, 0.50 mL | COCC(C)O | C4H10O2
product | N-{2-[2-(4-Fluoro-3-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 23.77 mg | FC1=C(C=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)N2CCOCC2 | C24H25FN6O3S
